US07232819B2
Step 4: dimethyl-2-{[(amino{7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]hept-1-yl}methylidene)amino]oxy}but-2-enedioate (C-38).
Triethyl amine (1.5 eq.), hydroxylamine hydrochloride (1.3 eq.) were added to a solution of benzyl 1-cyano-7-azabicyclo[2.2.1]heptane-7-carboxylate (C-37) in absolute methanol. The mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure, the residue was dissolved in chloroform and treated with dimethylacetylene dicarboxylate (2 eq.) for 14 hours at 60° C. The reaction mixture was then concentrated and the resulting crude oil was purified by flash chromatography (petroleum ether/EtOAc 1:1) to give the titled compound (C-38) as a mixture of isomers.

reactant | Triethyl amine | 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 1.3 eq. | Cl.NO
reactant | benzyl 1-cyano-7-azabicyclo[2.2.1]heptane-7-carboxylate | C(#N)C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2 | C15H16N2O2
reactant | dimethylacetylene dicarboxylate | 2 eq. | COC(=O)C#CC(=O)OC | C6H6O4
solvent | methanol | CO | CH4O
product | dimethyl-2-{[(amino{7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]hept-1-yl}methylidene)amino]oxy}but-2-enedioate | COC(C(=CC(=O)OC)ON=C(C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2)N)=O | C21H25N3O7
